US04316022
Preparation of 4,5-distearoyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
A mixture of 5 g (0.029 mole) of 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine, 2 g (0.066 mole) of stearoyl chloride and 50 ml of dry dimethyl formamide is heated at 60° C. for one hour under argon atmosphere. The reaction mixture is poured onto ice and the product is filtered off. 8 g (45%) of the title compound are obtained; m.p.: 77°-78° C.

reactant | 4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.029 mole, 5 g | C1=NN=C2NNC3=C(N21)C=CC=C3 | C8H7N5
reactant | stearoyl chloride | 0.066 mole, 2 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | 4,5-distearoyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 8 g, 45% | C(CCCCCCCCCCCCCCCCC)(=O)N1N(C2=C(N3C1=NN=C3)C=CC=C2)C(CCCCCCCCCCCCCCCCC)=O | C44H75N5O2
